US06960598B2
5-Chloro-2-trifluoromethyl[1,8]naphthyridine (50 mg, 0.22 mmol) was coupled to 5′-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-4,2′-difluorobiphenyl-2-carbonitrile (77 mg, 0.24 mmol) as described in Example 7 part g), affording 4,2′-difluoro-5′-(7-trifluoromethyl-[1,8]naphthyridin-4-yl)biphenyl-2-carbonitrile (13 mg, 14%). δH (400 MHz, CDCl3) 7.41-7.49 (2H, m), 7.54-7.63 (5H, m), 7.88 (1H, d, J 9.0), 8.68 (1H, d, J 8.2), 9.29 (1H, d, J 4.3). m/z (ES+) 412 [MH]+.

reactant | 5-Chloro-2-trifluoromethyl[1,8]naphthyridine | 0.22 mmol, 50 mg | ClC1=C2C=CC(=NC2=NC=C1)C(F)(F)F | C9H4ClF3N2
reactant | 5′-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-4,2′-difluorobiphenyl-2-carbonitrile | 0.24 mmol, 77 mg | CC1(COB(OC1)C=1C=CC(=C(C1)C=1C(=CC(=CC1)F)C#N)F)C | C18H16BF2NO2
product | 4,2′-difluoro-5′-(7-trifluoromethyl-[1,8]naphthyridin-4-yl)biphenyl-2-carbonitrile | 13 mg, 14% | FC=1C=C(C(=CC1)C1=C(C=CC(=C1)C1=CC=NC2=NC(=CC=C12)C(F)(F)F)F)C#N | C22H10F5N3
